US06218431B1
Step A: Ethyl 2,6-diisopropyl-4-[4-(phenyl)phenyl]-5-(pent-1-enyl)pyridine-3-carboxylate
Prepared from 4-phenylbenzaldehyde, ethyl isobutyrylacetate and concentrated ammonium hydroxide by the procedures described in Example 125, Steps A-E. 1H NMR (300 MHz, CDCl3): δ 0.73 (t, J=7.4 Hz, 3 H), 0.93 (t, J=7.0 Hz, 3 H), 1.10-1.40 (m, 14 H), 1.97 (tdd, J=7.0, 7.0, 1.1 Hz, 2 H), 3.10 (m, 1 H), 3.45 (m, 1 H), 4.0 (q, J=7.4 Hz, 2 H), 5.40 (m, 1 H), 6.10 (dt, J=16.2, 1.1 Hz, 1 H), 7.20-7.70 (m, 9 H). mp 104-106° C.

reactant | 4-phenylbenzaldehyde | C1(=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O
reactant | ethyl isobutyrylacetate | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | Ethyl 2,6-diisopropyl-4-[4-(phenyl)phenyl]-5-(pent-1-enyl)pyridine-3-carboxylate | C(C)(C)C1=NC(=C(C(=C1C(=O)OCC)C1=CC=C(C=C1)C1=CC=CC=C1)C=CCCC)C(C)C | C31H37NO2
